US04000302
N-[2-((2-Amino-4-imidazolyl)methylthio)ethyl]-N'-cyano-N"-methyl guanidine
By the procedure of Example 75, 2-amino-4-[(2-aminoethyl)-thiomethyl]imidazole is reacted with N-cyano-N',S-dimethylisothiourea to give the title compound.

reactant | 2-amino-4-[(2-aminoethyl)-thiomethyl]imidazole | NC=1NC=C(N1)CSCCN | C6H12N4S
reactant | N-cyano-N',S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
product | N-[2-((2-Amino-4-imidazolyl)methylthio)ethyl]-N'-cyano-N"-methyl guanidine | NC=1NC=C(N1)CSCCNC(=NC)NC#N | C9H15N7S
